US06346527B1
A solution of ethyl 3-amino-2-(3-ethoxycarbonyl-propoxy)benzoate (8.93 g) in conc. hydrochloric acid (4.8 ml) was cooled in an ice bath. To this solution was added dropwise a solution of sodium nitrite (2.11 g) in water (5 ml) at 5° C. On the other hand, a solution of potassium xanthogenate (5.83 g) in water (7.6 ml) was heated at 50° C. To this solution was added dropwise the above solution of the diazonium salt at 50-55° C. The reaction mixture was cooled to room temperature and was extracted with ethyl acetate. After an additional extraction with ethyl acetate, the combined extracts were dried over magnesium sulfate and evaporated in vacuo to give the crude material, which was then dissolved in ethanol and 85% potassium hydroxide (9.10 g) was added to the solution. After the mixture was heated to reflux for 1.5 hours, it was cooled in an ice bath and acidified with conc. hydrochloric acid. The mixture was then extracted with ethyl acetate (x 3). The combined extracts were dried over magnesium sulfate and evaporated in vacuo to give 3-mercapto-2-(3-carboxypropoxy)benzoic acid (7.08 g) as yellow crystals.

reactant | ethyl 3-amino-2-(3-ethoxycarbonyl-propoxy)benzoate | 8.93 g | NC=1C(=C(C(=O)OCC)C=CC1)OCCCC(=O)OCC | C15H21NO5
reactant | sodium nitrite | 2.11 g | N(=O)[O-].[Na+]
reactant | potassium xanthogenate | 5.83 g | CCOC(=S)[S-].[K+]
reactant | potassium hydroxide | 9.10 g | [OH-].[K+]
solvent | hydrochloric acid | 4.8 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 7.6 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-mercapto-2-(3-carboxypropoxy)benzoic acid | 7.08 g | SC=1C(=C(C(=O)O)C=CC1)OCCCC(=O)O | C11H12O5S
